US08232427B2
Step 4: N2-[3-(Dimethylamino)propyl]-N-hydroxy-N2-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinamide
To a de-gassed solution of benzyl N-[3-(dimethylamino)propyl]-N-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinate (500 mg, 0.634 mmol) in methanol (10 mL), catalytic palladium on carbon (10% on activated carbon, 7 mg, 0.063 mmol) is added and the reaction mixture is stirred vigorously under hydrogen for 78 h. The reaction mixture is diluted with anhydrous DMF (5 mL), concentrated in vacuo to remove methanol. To the DMF solution of the acid intermediate, O-(tetrahydro-2H-pyranyl)hydroxylamine (149 mg, 1.27 mmol), EDC.HCl (249 mg, 1.27 mmol), and HOAt (173 mg, 1.27 mmol) are added at rt. The reaction was allowed to stir at rt for 18 h and was complete by LC/MS. To the reaction mixture, sodium bicarbonate decahydrate (779 mg, 2.64 mmol) is added and is stirred vigorously for 30 min. The decahydrate crystals are filtered, and the filterate is concentrated in vacuo, and purified by silica gel chromatography eluting with 15-100% EtOAc/heptanes to obtain 250 mg of the THP-protected hydroxamide intermediate. (81% yield over 2 steps). To the solution of the intermediate in methanol (1 mL), concentrated hydrochloric acid solution (37% in water, 840 mL, 0.70 mmol) is added dropwise. The reaction mixture is stirred for 15 min, resulting in the precipitation of slightly pink white solid. The precipitate is washed with methanol and ether, then dried in vacuo to give the desired product as a white solid (227 mg, 100% yield). 1H NMR (400 MHz, d6-DMSO) δ ppm 10.82 (s, 1H), 9.86 (brs, 1H), 8.91 (s, 1H), 7.52-7.90 (m, 2H), 7.35 (m, 1H), 7.24 (m, 2H), 3.98 (m, 1H), 3.97 (s, 1H), 3.85 (s, 3H), 3.07 (ddd, J=12, 4, 4 Hz, 1H), 2.97 (m, 2H), 2.73 (brs, 6H), 2.13 (m, 1H), 1.94 (m, 1H), 1.01 (s, 9H). Mass spectrum (402.20; M+1).

reactant | benzyl N-[3-(dimethylamino)propyl]-N-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinate | 0.634 mmol, 500 mg | CN(CCCN([C@H](C(C)(C)C)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC(=CC=C1)OC)C | C25H36N2O5S
reactant | O-(tetrahydro-2H-pyranyl)hydroxylamine | 1.27 mmol, 149 mg | O1C(CCCC1)ON | C5H11NO2
reactant | EDC.HCl | 1.27 mmol, 249 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 1.27 mmol, 173 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | sodium bicarbonate decahydrate | 2.64 mmol, 779 mg | O.O.O.O.O.O.O.O.O.O.C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 0.70 mmol, 840 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.063 mmol, 7 mg | [Pd] | Pd
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 1 mL | CO | CH4O
product | N2-[3-(Dimethylamino)propyl]-N-hydroxy-N2-[(3-methoxyphenyl)sulfonyl]-3-methyl-D-valinamide | 227 mg, 100% yield | CN(CCCN([C@H](C(C)(C)C)C(=O)NO)S(=O)(=O)C1=CC(=CC=C1)OC)C | C18H31N3O5S
